US04159329
An intimate mixture of 5-(4-chorobenzyl)-2-methylthio-4-pyrimidone (1.36 g) and 2-(2-thiazolylmethylthio)ethylamine (0.9 g) was heated at 130°-135° for 31/2 hours. After cooling the reaction mixture was treated with 2N hydrochloric acid. Evaporation to dryness followed by recrystallisation from isopropanol/methanol gave 2-[2-(2-thiazolyl-methylthio)ethylamino[-5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride, m.p. 172.5°-174.5°.

reactant | 5-(4-chorobenzyl)-2-methylthio-4-pyrimidone | 1.36 g | ClC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11ClN2OS
reactant | 2-(2-thiazolylmethylthio)ethylamine | 0.9 g | S1C(=NC=C1)CSCCN | C6H10N2S2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride | Cl.ClC1=CC=C(CC=2C(NC=NC2)=O)C=C1 | InChI=1S/C11H9ClN2O.ClH/c12-10-3-1-8(2-4-10)5-9-6-13-7-14-11(9)15;/h1-4,6-7H,5H2,(H,13,14,15);1H
